US03978071
A mixture of 4.4 g of ethyl 2-[4-(imidazo[1,2-a]pyrimidin-2-yl)-phenyl]propionate, 50 ml of ethanol, 0.72 g of sodium hydroxide and 5 ml of water is heated under reflux for 2 hours. The ethanol is distilled off, and acetone is added to the residue. The crystalline precipitate is dissolved in water, and the solution is adjusted to pH 6 by addition of dilute hydrochloric acid. The crystalline precipitate is filtered off and washed with water to give 2.8 g of 2-[4-(imidazo[1,2-a]pyrimidin-2yl)phenyl]propionic acid as colorless crystals melting at 248°C with decomposition.

reactant | ethyl 2-[4-(imidazo[1,2-a]pyrimidin-2-yl)-phenyl]propionate | 4.4 g | N=1C(=CN2C1N=CC=C2)C2=CC=C(C=C2)C(C(=O)OCC)C | C17H17N3O2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.72 g | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 2-[4-(imidazo[1,2-a]pyrimidin-2yl)phenyl]propionic acid | 2.8 g | N=1C(=CN2C1N=CC=C2)C2=CC=C(C=C2)C(C(=O)O)C | C15H13N3O2
